US04255429
The starting material is prepared as follows: The mixture of 28.5 g of 2-methylsuccinic anhydride, 23.5 g of 4-aminopyridine and 350 ml of xylene is refluxed on a water separator while stirring for 3.5 hours. The hot solution is decanted from some gummy residue, cooled, filtered, the residue suspended in 100 ml of boiling isopropanol and filtered off again, to yield the 3-methyl-1-(4-pyridyl)-pyrrolidin-2,5-dione melting at 119°-120°.

reactant | 2-methylsuccinic anhydride | 28.5 g | CC1C(=O)OC(C1)=O | C5H6O3
reactant | 4-aminopyridine | 23.5 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-methyl-1-(4-pyridyl)-pyrrolidin-2,5-dione | CC1C(N(C(C1)=O)C1=CC=NC=C1)=O | C10H10N2O2
